US05212187
N-[3-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]propyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea
Preparation is effected analogously to Example 63, using 0.9 g (2.8 mmol) of N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,3-propanediamine, an equimolar amount of 1,1'-carbonyldiimidazole and 0.73 g (3.1 mmol) of 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine as starting materials. Working up by chromatography (eluant: ethyl acetate/methanol 85+15) analogously to Example 63 yields the purified title compound in the form of a dry foam; MS (+FAB method): m/z (rel. int.[%])=575 ([M+H]+, 3), 155 (22), 230 (100); IR (KBr): 1646 cm-1 (C=O).

reactant | N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,3-propanediamine | 2.8 mmol, 0.9 g | ClC1=CC=C(C=C1)C(CCN(CCCN)C)C1=NC=CC=C1 | C18H24ClN3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine | 3.1 mmol, 0.73 g | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | N-[3-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]propyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea | ClC1=CC=C(C=C1)C(CCN(C)CCCNC(=O)NCCSCC=1N=C(SC1)NC(=N)N)C1=NC=CC=C1 | C26H35ClN8OS2
